// Generated for: spectre
// Generated on: Jun 18 11:06:16 2026
// Design library name: SAR9B_400MV
// Design cell name: TB_SUBMOD_CLK_NOOVERLAP_PERF
// Design view name: schematic
simulator lang=spectre
global 0
parameters cload=2f vdd=800m
include "/home/IC/Desktop/Project/project_tsmcN28_NEW/project_tsmcN28_NEW/iPDK_CRN28HPC+_v1.0_2p2a_20160226_all/CRN28HPCp/models/spectre/toplevel.scs" section=top_tt

// Library name: SAR9B_400MV
// Cell name: INVX1
// View name: schematic
subckt INVX1 IN VDD VSS ZN
    M0 (ZN IN VSS VSS) nch_mac l=30n w=100n multi=1 nf=1 sd=100n \
        ad=7.5e-15 as=7.5e-15 pd=350n ps=350n nrd=2.576626 nrs=2.576626 \
        sa=75n sb=75n sa1=75n sa2=75n sa3=75n sa4=75n sb1=75n sb2=75n \
        sb3=75n spa=100n spa1=100n spa2=100n spa3=100n sap=91.9776n \
        sapb=114.444n spba=115.715168n spba1=117.042727n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M1 (ZN IN VDD VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n \
        ad=1.5e-14 as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 \
        nrs=1.688887 sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n \
        sa4=75.0n sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=91.9776n sapb=114.444n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
ends INVX1
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: NAND2X1
// View name: schematic
subckt NAND2X1 A B VDD VSS ZN
    M3 (ZN A net1 VSS) nch_mac l=30n w=100n multi=1 nf=1 sd=100n \
        ad=7.5e-15 as=7.5e-15 pd=350n ps=350n nrd=2.576626 nrs=2.576626 \
        sa=75n sb=75n sa1=75n sa2=75n sa3=75n sa4=75n sb1=75n sb2=75n \
        sb3=75n spa=100n spa1=100n spa2=100n spa3=100n sap=91.9776n \
        sapb=114.444n spba=115.715168n spba1=117.042727n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M0 (net1 B VSS VSS) nch_mac l=30n w=100n multi=1 nf=1 sd=100n \
        ad=7.5e-15 as=7.5e-15 pd=350n ps=350n nrd=2.576626 nrs=2.576626 \
        sa=75n sb=75n sa1=75n sa2=75n sa3=75n sa4=75n sb1=75n sb2=75n \
        sb3=75n spa=100n spa1=100n spa2=100n spa3=100n sap=91.9776n \
        sapb=114.444n spba=115.715168n spba1=117.042727n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M2 (ZN B VDD VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n ad=1.5e-14 \
        as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 nrs=1.688887 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M1 (ZN A VDD VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n ad=1.5e-14 \
        as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 nrs=1.688887 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
ends NAND2X1
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: INVX8
// View name: schematic
subckt INVX8 IN VDD VSS ZN
    M0 (ZN IN VSS VSS) nch_mac l=30n w=800n multi=1 nf=2 sd=100n ad=4e-14 \
        as=6e-14 pd=1u ps=1.9u nrd=0.576527 nrs=0.576527 sa=112.742n \
        sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n sa4=110.059n \
        sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=104.359n sapb=125.813n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M1 (ZN IN VDD VDD) pch_mac l=30n w=1.6u multi=1 nf=2 sd=100n ad=8e-14 \
        as=1.2e-13 pd=1.8u ps=3.5u nrd=0.118741 nrs=0.118741 sa=112.742n \
        sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n sa4=110.059n \
        sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=104.359n sapb=125.813n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
ends INVX8
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: INVX4
// View name: schematic
subckt INVX4 IN VDD VSS ZN
    M0 (ZN IN VSS VSS) nch_mac l=30n w=400n multi=1 nf=1 sd=100n ad=3e-14 \
        as=3e-14 pd=950.0n ps=950.0n nrd=0.896976 nrs=0.896976 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
    M1 (ZN IN VDD VDD) pch_mac l=30n w=800n multi=1 nf=1 sd=100n ad=6e-14 \
        as=6e-14 pd=1.75u ps=1.75u nrd=0.214332 nrs=0.214332 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
ends INVX4
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: DELAY_1
// View name: schematic
subckt DELAY_1 IN VDD VSS Z
    M4 (Z net1 VSS VSS) nch_mac l=100n w=100n multi=1 nf=1 sd=120.0n \
        ad=9.5e-15 as=9.5e-15 pd=390.0n ps=390.0n nrd=2.523521 \
        nrs=2.523521 sa=95.0n sb=95.0n sa1=95.0n sa2=95.0n sa3=95.0n \
        sa4=95.0n sb1=95.0n sb2=95.0n sb3=95.0n spa=120.0n spa1=120.0n \
        spa2=120.0n spa3=120.0n sap=112.128n sapb=128.193n spba=134.907n \
        spba1=139.642n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M0 (net1 IN VSS VSS) nch_mac l=100n w=100n multi=1 nf=1 sd=120.0n \
        ad=9.5e-15 as=9.5e-15 pd=390.0n ps=390.0n nrd=2.523521 \
        nrs=2.523521 sa=95.0n sb=95.0n sa1=95.0n sa2=95.0n sa3=95.0n \
        sa4=95.0n sb1=95.0n sb2=95.0n sb3=95.0n spa=120.0n spa1=120.0n \
        spa2=120.0n spa3=120.0n sap=112.128n sapb=128.193n spba=134.907n \
        spba1=139.642n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M5 (Z net1 VDD VDD) pch_mac l=100n w=200n multi=1 nf=1 sd=120.0n \
        ad=1.9e-14 as=1.9e-14 pd=590.0n ps=590.0n nrd=1.116878 \
        nrs=1.116878 sa=95.0n sb=95.0n sa1=95.0n sa2=95.0n sa3=95.0n \
        sa4=95.0n sb1=95.0n sb2=95.0n sb3=95.0n spa=120.0n spa1=120.0n \
        spa2=120.0n spa3=120.0n sap=112.128n sapb=128.193n spba=134.907n \
        spba1=139.642n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M1 (net1 IN VDD VDD) pch_mac l=100n w=200n multi=1 nf=1 sd=120.0n \
        ad=1.9e-14 as=1.9e-14 pd=590.0n ps=590.0n nrd=1.116878 \
        nrs=1.116878 sa=95.0n sb=95.0n sa1=95.0n sa2=95.0n sa3=95.0n \
        sa4=95.0n sb1=95.0n sb2=95.0n sb3=95.0n spa=120.0n spa1=120.0n \
        spa2=120.0n spa3=120.0n sap=112.128n sapb=128.193n spba=140.0n \
        spba1=149.666n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
ends DELAY_1
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: TRIGATEX1
// View name: schematic
subckt TRIGATEX1 IN OE OEN VDD VSS Z
    M0 (IN OE Z VSS) nch_mac l=30n w=100n multi=1 nf=1 sd=100n ad=7.5e-15 \
        as=7.5e-15 pd=350n ps=350n nrd=2.576626 nrs=2.576626 sa=75n sb=75n \
        sa1=75n sa2=75n sa3=75n sa4=75n sb1=75n sb2=75n sb3=75n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=91.9776n sapb=114.444n \
        spba=115.715168n spba1=117.042727n dfm_flag=0 spmt=1.11111e+15 \
        spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 \
        spomb1=1.11111e+60
    M2 (IN OEN Z VDD) pch_mac l=30n w=200n multi=1 nf=1 sd=100n ad=1.5e-14 \
        as=1.5e-14 pd=550.0n ps=550.0n nrd=1.688887 nrs=1.688887 sa=75.0n \
        sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n sb1=75.0n \
        sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n spa3=100n \
        sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n dfm_flag=0 \
        spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 spmb=1.11111e+15 \
        spomb=0 spomb1=1.11111e+60
ends TRIGATEX1
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: CLK_NOOVERLAP
// View name: schematic
subckt CLK_NOOVERLAP CLKIN CLKON CLKOP VDD VSS
    I11 (net4 VDD VSS net13) INVX1
    I8 (CLKIN VDD VSS net10) INVX1
    I4 (net6 VDD VSS net7) INVX1
    I2 (net2 VDD VSS net3) INVX1
    I0 (CLKIN VDD VSS net2) INVX1
    I10 (net6 net11 VDD VSS net12) NAND2X1
    I3 (net3 net4 VDD VSS net5) NAND2X1
    I17 (net14 VDD VSS CLKON) INVX8
    I16 (net8 VDD VSS CLKOP) INVX8
    I13 (net13 VDD VSS net14) INVX4
    I6 (net7 VDD VSS net8) INVX4
    I12 (net12 VDD VSS net4) DELAY_1
    I5 (net5 VDD VSS net6) DELAY_1
    I15 (net10 VDD VSS VDD VSS net11) TRIGATEX1
ends CLK_NOOVERLAP
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: TB_SUBMOD_CLK_NOOVERLAP_PERF
// View name: schematic
VSS_SRC (VSS 0) vsource dc=0 type=dc
VDD_SRC (VDD VSS) vsource dc=vdd type=dc
XNO (CLKIN CLKON CLKOP VDD VSS) CLK_NOOVERLAP
VCLK (CLKIN VSS) vsource type=pulse val0=0 val1=vdd period=5n delay=500p \
        rise=5p fall=5p width=2n
C_CLKON (CLKON VSS) capacitor c=cload
C_CLKOP (CLKOP VSS) capacitor c=cload
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf
tran tran stop=12n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save CLKIN CLKOP CLKON
saveOptions options save=allpub
